US06271237B1
2-[5-(2-Furyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzonitrile:
2-[5-(2-Furyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzamide (6.73 g, 21 mmol) and triethylamine (5.8 mL, 42 mmol) were combined in dry CH2Cl2 (55 mL) under argon and cooled to 0° C. Trichloroacetyl chloride (2.7 mL, 24 mmol) in CH2Cl2 (15 mL) was added dropwise over 30 min. The resulting solution was stirred at 0° C. for 20 min, then at room temperature for 65 min. The reaction was quenched with a small amount of water, then partitioned between 1M HCl and CH2Cl2. The organic layer was removed and extracted with sat. NaHCO3, then dried over Na2SO4, filtered, and evaporated to yield crude product (6.66 g). The crude product was chromatographed on silica gel (30-40% EtOAc/hexanes) to yield a yellow solid (6.51 g, >100%). 1H NMR (CDCl3) δ7.79 (m, 2H), 7.64 (m, 2H), 7.39 (d, 1H, J=1.8), 6.96 (s, 1H), 6.37 (m, 1H), 6.04 (d, 1H, J=3.7).

reactant | 2-[5-(2-Furyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzamide | 21 mmol, 6.73 g | O1C(=CC=C1)C1=CC(=NN1C1=C(C(=O)N)C=CC=C1)C(F)(F)F | C15H10F3N3O2
reactant | triethylamine | 42 mmol, 5.8 mL | C(C)N(CC)CC | C6H15N
reactant | Trichloroacetyl chloride | 24 mmol, 2.7 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | CH2Cl2 | 55 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-[5-(2-Furyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzonitrile | 6.51 g, >100% | O1C(=CC=C1)C1=CC(=NN1C1=C(C#N)C=CC=C1)C(F)(F)F | C15H8F3N3O
